US08455477B2
3-bromo-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine (25.0 mg, 0.081 mmol), benzyl amine (12.0 mg, 0.011 mmol), tris[dibenzylideneacetone]dipalladium (0) (1.9 mg, 0.0020 mmol), and tert-butyl X-phos (3.5 mg, 8.1 mmol) were suspended in toluene (1.6 ml), sparged with argon for 3 minutes, then heated to 100° C. After 12 hours, the reaction mixture was concentrated. The residue was purified by preparative HPLC Reverse phase (C-18), eluting with acetonitrile/water+0.05% TFA to give N-benzyl-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-amine 1H NMR (500 MHz, DMSO-d6) δ 8.23 (s, 1H); 8.17 (s, 1H); 7.91 (s, 1H); 7.38 (d, 2H); 7.29 (t, 2H); 7.25 (s, 1H); 7.20 (t, 1H); 6.44 (s, 1H); 4.92 (t, 1H); 4.23 (d, 2H); 3.93 (s, 3H); 3.83 (s, 3H). LRMS (ESI) calculated for C19H20N5O [M+H]+, 334.2; found 334.1.

reactant | 3-bromo-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | 0.081 mmol, 25.0 mg | BrC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C12H11BrN4O
reactant | benzyl amine | 0.011 mmol, 12.0 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | tert-butyl X-phos | 8.1 mmol, 3.5 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC=CC=C2P(C(C)(C)C)C(C)(C)C)C(C)C | C29H45P
solvent | toluene | 1.6 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris[dibenzylideneacetone]dipalladium (0) | 0.0020 mmol, 1.9 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-benzyl-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-3-amine | C(C1=CC=CC=C1)NC=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C19H19N5O
